US07893267B2
5.0 mL of conc. HNO3 at 0° C. was slowly treated with 10.0 mL of conc. H2SO4, then 3.52 g (20.0 mmol) of 3,4,5-trifluoro-benzoic acid. The reaction mixture was warmed up to room temperature and stirred overnight. The mixture was poured into a beaker containing ice. The resulting solid was collected by filtration, washed with cold water and dried to produce 3.4 g (16.0 mmol, 80%) of 2-nitro-3,4,5-trifluoro-benzoic acid. LCMS: 222 (M+1)+.

reactant | HNO3 | 5.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 10.0 mL | OS(=O)(=O)O | H2O4S
reactant | 3,4,5-trifluoro-benzoic acid | 20.0 mmol, 3.52 g | FC=1C=C(C(=O)O)C=C(C1F)F | C7H3F3O2
product | 2-nitro-3,4,5-trifluoro-benzoic acid | 16.0 mmol, 3.4 g, 80% | [N+](=O)([O-])C1=C(C(=O)O)C=C(C(=C1F)F)F | C7H2F3NO4
